US06734306B2
I. tert-Butyl 3-(aminoacetyl)-3.8-diazabicyclo[3.2.1 ]octane-8-carboxylate
To a stirred solution of tert-Butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (70.0 mg, 0.187 mmol) in EtOH (1.9 mL) was added hydrazine monohydrate (19.0 mg, 0.375 mmol) at room temperature and the mixture was refluxed for 1 h. After cooling, the precipitates formed were filtered off. The filtrate was evaporated in vacuo and the residue was purified by preparative TLC (SiO2, 20×20 cm, 1 mm, CH2Cl2/MeOH/aqueous NH3=92/6/2) to afford a product (21.4 mg, 42%) as a white solid.

reactant | tert-Butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 0.187 mmol, 70.0 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)N1CC2CCC(C1)N2C(=O)OC(C)(C)C | C21H25N3O5
reactant | hydrazine monohydrate | 0.375 mmol, 19.0 mg | O.NN
solvent | EtOH | 1.9 mL | CCO | C2H6O
product | tert-Butyl 3-(aminoacetyl)-3.8-diazabicyclo[3.2.1 ]octane-8-carboxylate | 21.4 mg, 42% | NCC(=O)N1CC2CCC(C1)N2C(=O)OC(C)(C)C | C13H23N3O3
